US06143760
A mixture of ethyl 6-benzylamino-4-oxo-1,4-dihydro-1,5-naphthyridine-3-carboxylate (60 mg), 1N NaOH (2 mL), and ethanol (0.5 mL) was heated at reflux for 2 h. The reaction mixture was cooled in an ice bath and saturated aqueous ammonium chloride was added. The resulting precipitate was collected, rinsed with water and ether, then dried to afford 35 mg of 6-benzylamino-4-oxo-1,4-dihydro-1,5-naphthyridine-3-carboxylic acid as a brown solid.

reactant | ethyl 6-benzylamino-4-oxo-1,4-dihydro-1,5-naphthyridine-3-carboxylate | 60 mg | C(C1=CC=CC=C1)NC=1N=C2C(C(=CNC2=CC1)C(=O)OCC)=O | C18H17N3O3
reactant | NaOH | 1N, 2 mL | [OH-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ethanol | 0.5 mL | C(C)O | C2H6O
product | 6-benzylamino-4-oxo-1,4-dihydro-1,5-naphthyridine-3-carboxylic acid | 35 mg | C(C1=CC=CC=C1)NC=1N=C2C(C(=CNC2=CC1)C(=O)O)=O | C16H13N3O3
